US07312225B2
10b) Production of 1-(3-Amino-propyl)-3-(3-nitro-phenyl)-urea
6.4 g (18.9 mmol) of {3-[3-(3-nitro-phenyl)-ureido]-propyl}-carbamic acid-tert-butyl ester is mixed with 22 ml of trifluoroacetic acid and stirred for 2 hours at room temperature. The solvent is drawn off, the batch is mixed with NaHCO3 solution and extracted from ethyl acetate. The combined organic phases are filtered through a Whatman filter and concentrated by evaporation. 4.4 g (18.5 mmol, corresponding to 97% of theory) of the product is obtained.

reactant | {3-[3-(3-nitro-phenyl)-ureido]-propyl}-carbamic acid-tert-butyl ester | 18.9 mmol, 6.4 g | C(C)(C)(C)OC(NCCCNC(=O)NC1=CC(=CC=C1)[N+](=O)[O-])=O | C15H22N4O5
reactant | trifluoroacetic acid | 22 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 1-(3-Amino-propyl)-3-(3-nitro-phenyl)-urea | NCCCNC(=O)NC1=CC(=CC=C1)[N+](=O)[O-] | C10H14N4O3
